US08445684B2
3-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-ethynylpyridine
In a 50 mL round-bottom flask with stir bar, a solution of KOH (174 mg) in methanol (4 mL) was added to a solution of 3-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-[(trimethylsilyl)ethynyl]pyridine (560 mg, 1.55 mmol) in methanol (1 mL). The flask was loosely closed with a rubber stopper, and the mixture was stirred at room temperature for 3 h. A TLC taken after 105 min (silica gel, EtOAc/hexane 55:45) showed traces of starting material (Rf 0.6) and a new spot (Rf 0.5). The mixture was evaporated and the residue directly chromatographed on silica gel (24×2.5 cm, EtOAc/hexane 1:1). The product-containing fractions were evaporated, and the residue was dried (35° C./14 torr) to obtain 473 mg (nominally 106%) of the product, an orange-brown oil which darkened upon standing and appeared to be too unstable for more stringent drying. The excess mass balance was represented by EtOAc as shown by 1H NMR. The material was suitable in this form for the subsequent reaction. 1H NMR (CDCl3, TMS, 250 MHz) δ 8.36-8.29 (m, 2H), 7.33 (dd, 1H, J=1.6, 2.7 Hz), 4.51 (m, 1H), 4.34 (m, 1H), 4.13 (dd, 1H, J=2.9, 10.1 Hz), 3.89 (t, 2H, J=7.6 Hz), 3.20 (s, 1H), 2.43-2.20 (m, 2H), 1.43 (s, 9H); 13C NMR (CDCl3, 62.5 MHz) δ 156.0, 154.3 (br), 145.1, 138.4, 123.5, 119.3 (br), 80.4, 80.0, 79.7, 68.7, 59.9, 47.0 (br), 28.3, 18.9.

reactant | KOH | 174 mg | [OH-].[K+]
reactant | 3-[[1-(tert-butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-[(trimethylsilyl)ethynyl]pyridine | 1.55 mmol, 560 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=NC=C(C1)C#C[Si](C)(C)C | C19H28N2O3Si
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | methanol | 4 mL | CO | CH4O
solvent | methanol | 1 mL | CO | CH4O
product | 3-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-ethynylpyridine | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=NC=C(C1)C#C | C16H20N2O3
